US06017919
Pentyl 4-methoxy-3-pentyloxybenzoate (17.4 g, 0.056 mol) was dissolved in methanol (85 ml). A 1N aqueous sodium hydroxide solution (85 ml, 0.085 mol, 1.5 eq) was added, and the mixture was refluxed under heating for 1.5 hours. This reaction mixture was cooled to room temperature, and washed with n-hexane (100 ml). A 10% aqueous hydrochloric acid solution (ca. 120 ml) was added to the aqueous layer under ice-cooling to make the same acidic. This was extracted twice with ethyl acetate (220 ml). The organic layers were combined, washed with saturated brine (400 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by recryst azation from ethyl acetate to give 4-methoxy-3-pentyloxybenzoic acid (10.7 g, 79.6%) as colorless crystals.

reactant | Pentyl 4-methoxy-3-pentyloxybenzoate | 0.056 mol, 17.4 g | COC1=C(C=C(C(=O)OCCCCC)C=C1)OCCCCC | C18H28O4
reactant | sodium hydroxide | 0.085 mol, 1N, 85 ml, 1.5 eq | [OH-].[Na+]
solvent | methanol | 85 ml | CO | CH4O
product | 4-methoxy-3-pentyloxybenzoic acid | 10.7 g, 79.6% | COC1=C(C=C(C(=O)O)C=C1)OCCCCC | C13H18O4
